US07294622B2
a. Methyl (2S)-{[(2S)-2-hydroxy-4-methylpentanoyl]amino}(phenyl)acetate (76a)
To a cooled (0° C.) solution of methyl (2S)-amino(phenyl)acetate (3.06 g), (2S)-2-hydroxy-4-methylpentanoic acid hydrochloride, NMM (1.85 ml), and HOBt (6.15 g) in dichloromethane (50 ml) was added EDAC-HCl (5.81 g). Additional NMM (2.31 ml) was then added. The mixture was stirred for 2h at 0° C., then overnight at RT. The reaction was concentrated and the residue was taken up in Ethyl acetate washed with 0.1N hydrochloric acid, saturated sodium bicarbonate, brine, dried, filtered and evaporated to afford the title compound (4.20 g). 1H NMR (300 MHz, CDCl3) δ 0.92-0.95 (m, 6H), 1.47-1.67 (m, 2H), 1.76-2.04 (m, 1H), 2.63 (bs, 1H), 3.74 (s, 3H), 4.21 (d, 1H, J=9 Hz), 5.58 (d, 1H, J=8 Hz), 7.26-7.42 (m, 5H). MS APCI, m/z=280 (M+1). LC/MS: 1.95 min.

reactant | methyl (2S)-amino(phenyl)acetate | 3.06 g | N[C@H](C(=O)OC)C1=CC=CC=C1 | C9H11NO2
reactant | (2S)-2-hydroxy-4-methylpentanoic acid hydrochloride | Cl.O[C@H](C(=O)O)CC(C)C
reactant | NMM | 1.85 ml | CN1CCOCC1 | C5H11NO
reactant | HOBt | 6.15 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDAC-HCl | 5.81 g | CCN=C=NCCCN(C)C.Cl
reactant | NMM | 2.31 ml | CN1CCOCC1 | C5H11NO
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | Methyl (2S)-{[(2S)-2-hydroxy-4-methylpentanoyl]amino}(phenyl)acetate | 4.20 g | O[C@H](C(=O)N[C@H](C(=O)OC)C1=CC=CC=C1)CC(C)C | C15H21NO4
